US05401774
The procedure of Example 1C is followed using 2-methyl-6-nitro indanone in equivalent quantities in place of 6-methoxy-2-methyl-indanone used therein. After the mixture is condensed, 30 ml. of ethanol and 50 ml. of acetic acid are added. The mixture is then poured into 700 ml. of water. Extraction with ether gives methyl 3-hydroxy-2-methyl-5-nitro-3-indenylacetate.

reactant | 2-methyl-6-nitro indanone | CC1C(C2=CC(=CC=C2C1)[N+](=O)[O-])=O | C10H9NO3
reactant | 6-methoxy-2-methyl-indanone | COC1=CC=C2CC(C(C2=C1)=O)C | C11H12O2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | methyl 3-hydroxy-2-methyl-5-nitro-3-indenylacetate | OC1(C(=CC2=CC=C(C=C12)[N+](=O)[O-])C)CC(=O)OC | C13H13NO5
